US06762320B2
b) 5-(3-Fluoro-benzyloxy)-2-nitro-phenol
1.0 g (5 mmol) of 3-(3-fluoro-benzyloxy)-phenol is dissolved in 10 ml acetic acid and cooled to 10°. 0.44 g (5 mmol) of 65% nitric acid is dissolved in 10 ml acetic acid and slowly added to the previous solution. The colored mixture is stirred for 15 min. at 10° and for 2 h at room temperature. 50 ml of water is added and the product extracted 3 times with ethyl acetate. Chromatography (silica gel, dichloromethane/methanol 98:2) yields 0.38 g (32%) of the desired product as a yellow solid. MS: m/e=262.1 (M+−H).

reactant | 3-(3-fluoro-benzyloxy)-phenol | 5 mmol, 1.0 g | FC=1C=C(COC=2C=C(C=CC2)O)C=CC1 | C13H11FO2
reactant | nitric acid | 5 mmol, 0.44 g | [N+](=O)(O)[O-] | HNO3
reactant | water | 50 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-(3-Fluoro-benzyloxy)-2-nitro-phenol | 0.38 g, 32% | FC=1C=C(COC=2C=CC(=C(C2)O)[N+](=O)[O-])C=CC1 | C13H10FNO4
